US03944675
N-(4-Methoxyphenyl)-1-adamantanecarboxamide
Subject 6.5 g. (33.0 mmoles) of 1-adamantane carboxylic acid chloride, 4.0 g. (33.0 mmoles) of p-anisidine and 10.0 ml. of triethylamine to the process of Example 11 and crystallize the residue obtained thereby from chloroform to yield the title product, m.p. 181°-184°C.

reactant | 1-adamantane carboxylic acid chloride | 33.0 mmoles | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | p-anisidine | 33.0 mmoles | COC1=CC=C(C=C1)N | C7H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Methoxyphenyl)-1-adamantanecarboxamide | COC1=CC=C(C=C1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C18H23NO2
